data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][N+:21]1(CCOCC1)C2(CCCCC2)[O-].C1COCC[NH:10]1.C1=CC=CC=C1>>[H:20][NH+:10]1CCOCC1.C1CCC(CC1)([N:21]2CCOCC2)[O-].C1=CC=CC=C1 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CC1=CC=C(C=C1)C2(CC=C(O2)C3=CC=CC=C3)[OH:10].CC1=CC=CC=C1>>[H:20][OH+:10]C1(CC=C(O1)C2=CC=CC=C2)C3=CC=C(C=C3)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC1=CC=CC=C1 10=20;20,21=21
[H:20][O+:21](CCC1CC(=C)CC(O1)C=C(C)Br)P(C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)N(C(=O)OCC)NC(=O)OCC.C1=CC=C(C=C1)N2C(=NN=N2)[S-:10]>>[H:20][S:10]C1=NN=NN1C2=CC=CC=C2.CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[O:21]CCC4CC(=C)CC(O4)C=C(C)Br 10=20;20,21=21
C[C:10]1(CCCC1)[OH2+:11]>>C[C+:10]1CCCC1.[OH2:11] 10,11=11
CC1=C(S[C-:10]=[N+]1CC2=CC=CC=C2)CCO.C1=CSC(=C1)[CH:20]=[O:21].CC[NH+](CC)CC.CC(C)O.C1OC2=C(O1)C=C(C=C2)C=CC(=O)C3=CC=CS3.[Cl-]>>CC1=C(S[C:10](=[N+]1CC2=CC=CC=C2)[CH:20](C3=CC=CS3)[O-:21])CCO.CC[NH+](CC)CC.CC(C)O.C1OC2=C(O1)C=C(C=C2)C=CC(=O)C3=CC=CS3.[Cl-] 10=20;20,21=21
C[CH+]C[Si:20](C)(C)C.CS(=O)(=O)[O-:10]>>C[CH+]C[Si-:20](C)(C)(C)[O:10]S(=O)(=O)C 10=20,
[H:20][N+:21]#CCC.CC#[C-:10]>>[H:20][C:10]#CC.CCC#[N:21] 10=20;20,21=21
[B:20](CCC)(CCC)CC(=C)C=C.CC(C)CC=[O:10]>>[B-:20](CCC)(CCC)(CC(=C)C=C)[O+:10]=CCC(C)C 10=20,
[H:20][CH:21](C)[C:22](=[O:23])C.CC[O-:10]>>[H:20][O:10]CC.C[CH:21]=[C:22](C)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O+:21](C)P(I)(I)I.C[OH:10]>>[H:20][OH+:10]C.C[O:21]P(I)(I)I 10=20;20,21=21
COCC1C2C[C:20](=[O+:21]C2C(C1O)I)[O:10][Na:11].[I-]>>COCC1C2C[C:20](=[O:10])[O:21]C2C(C1O)I.[Na+:11].[I-] 10,11=10,20;20,21=21
CCCC[Sn](CCCC)(CCCC)C[CH+]CC(C(=CC1=CSC(=N1)C)C)O[Ti-:10](OC(C)C)(OC(C)C)(OC(C)C)[O:11]C(C)C>>CCCC[Sn](CCCC)(CCCC)C[CH+]CC(C(=CC1=CSC(=N1)C)C)O[Ti:10](OC(C)C)(OC(C)C)OC(C)C.CC(C)[O-:11] 10,11=11
[H:20][CH:21]([CH2:22][OH2+:23])C(=O)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=O)[CH:21]=[CH2:22].[OH2:23] 10=20;22,23=23;20,21=21,22
CC(CCC(C)[O-:10])[CH:20](C)[Br:21]>>CC1CCC([O:10][CH:20]1C)C.[Br-:21] 10=20;20,21=21
CC[OH+:21][C:20](CC(=O)O)(O)[OH:10]>>CC[OH:21].C([C:20](=[OH+:10])O)C(=O)O 10=20;20,21=21
[H:20][O+:21](CCO)C(C)(C)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.CC(C)(OC)[O:21]CCO 10=20;20,21=21
[H:20][O:21]C(=O)C1C(C1(C)C)C=C(C)C.[OH-:10].CS(=O)(=O)[O-].[K+]>>[H:20][OH:10].CC(=CC1C(C1(C)C)C(=O)[O-:21])C.CS(=O)(=O)[O-].[K+] 10=20;20,21=21
[H:20][C:21]1(C=CC=C([C+:22]1OC)Br)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CO[C:22]1=[C:21](C=CC=C1Br)S(=O)(=O)O 10=20;20,21=21,22
[H:20][CH:21](C1=CC(=C(C(=C1)OC)OC)OC)[C:22](=[O:23])OC(=O)C.CC[N:10](CC)CC.CC[NH+](CC)CC.CC(=O)[O-].COC1=C(C=C(C=C1)C=O)O>>[H:20][N+:10](CC)(CC)CC.CC(=O)O[C:22](=[CH:21]C1=CC(=C(C(=C1)OC)OC)OC)[O-:23].CC[NH+](CC)CC.CC(=O)[O-].COC1=C(C=C(C=C1)C=O)O 10=20;22,23=23;20,21=21,22
C1CN(CC([C:20]1=[OH+:21])CC(=[O:10])C2=CC=CC=C2)CC3=CC=CC=C3.O.[Cl-]>>C1CN(CC2[C:20]1([O+:10]=C(C2)C3=CC=CC=C3)[OH:21])CC4=CC=CC=C4.O.[Cl-] 10=20;20,21=21
CC[C:20](=[O:21])OC(C)C.[OH-:10]>>CC[C:20]([OH:10])([O-:21])OC(C)C 10=20;20,21=21
C[Si](C)(C)OCC[O:10][Si](C)(C)C.C[Si](C)(C)[O+:21]=[C:20]1CCC2=C(O1)C=CC=C2.C(F)(F)(F)S(=O)(=O)[O-]>>C[Si](C)(C)OCC[O+:10]([C:20]1(CCC2=C(O1)C=CC=C2)[O:21][Si](C)(C)C)[Si](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-] 10=20;20,21=21
C[CH:20](C(=C)C(=O)OC)[O:21][P+:22](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[Br-:10].C1CC(=O)NC1=O>>C[CH:20](C(=C)C(=O)OC)[Br:10].C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C1CC(=O)NC1=O 10=20;20,21=21,22
CCOC(=O)C1(C(CCC(C1CC(=O)C)(C#N)[C:20]([NH3+:21])([OH:10])OCC)C)C(=O)OCC.O.[Cl-]>>CCO[C:20](=[OH+:10])C1(CCC(C(C1CC(=O)C)(C(=O)OCC)C(=O)OCC)C)C#N.[NH3:21].O.[Cl-] 10=20;20,21=21
CO[C:20]([O-:10])(OC)[Cl:21]>>CO[C:20](=[O:10])OC.[Cl-:21] 10=20;20,21=21
CC[CH+:20]CC.CC[OH:10]>>CC[CH:20](CC)[OH+:10]CC 10=20,
C1OC2=CC=C(C=C2O1)C[O-:10].C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)Br.C(Br)(Br)Br>>C1OC2=CC=C(C=C2O1)C[O:10][P:20](C3=CC=CC=C3)(C4=CC=CC=C4)(C5=CC=CC=C5)Br.C(Br)(Br)Br 10=20,
[Li:11][CH2:10]CCC.CN1C=CC2=CC(=CC=C21)[Br:20]>>[Li+:11].CCC[CH2:10][Br-:20]C1=CC=C2C(=C1)C=CN2C 10,11=10,20
C[OH:10].CO[PH+:20](N1C=NN=N1)OC>>C[OH+:10][PH:20](N1C=NN=N1)(OC)OC 10=20,
[H:20][C:21](CCCCBr)(C(=O)C)[C:22](=[O:23])C.CC[O-:10]>>[H:20][O:10]CC.C[C:22](=[C:21](CCCCBr)C(=O)C)[O-:23] 10=20;22,23=23;20,21=21,22
C1CCC(CC1)C2=CC=C[N+:21](=C2)[CH:20]3CC(C([O:10]3)COC4CCCCC4)O>>C1CCC(CC1)C2=CC=C[N:21]=C2.C1CCC(CC1)OCC2C(C[CH:20]=[O+:10]2)O 10=20;20,21=21
C1=C(C=C(C(=C1Br)O)Br)CNC2=C3C(=N[CH:20]([NH:10]2)[OH:21])N(C(=O)N3)C4C(C(C(O4)CO)O)O.[OH-].[Br-]>>C1=C(C=C(C(=C1Br)O)Br)CNC2=C3C(=N[CH:20]=[NH+:10]2)N(C(=O)N3)C4C(C(C(O4)CO)O)O.[OH-:21].[OH-].[Br-] 10=20;20,21=21
[H:20][O:21]C(C)OC(C)[C:10](=[CH:11][O-:12])C[N+](C)(C)C>>[H:20][C:10](C[N+](C)(C)C)([CH:11]=[O:12])C(C)OC(C)[O-:21] 10,11=10,20;20,21=21;12=11
C1=CC=C(C=C1)C[NH2:10].C1=CC=C(C=C1)C(=O)[CH2:20][Cl:21]>>C1=CC=C(C=C1)C[NH2+:10][CH2:20]C(=O)C2=CC=CC=C2.[Cl-:21] 10=20;20,21=21
